US04497813
A solution of 9.65 g of 2,3-dihydro-2,2-dimethyl-6-hydroxy-4H-1,3-benzoxazin-4-one and 9.1 g of allyl bromide in 150 ml of acetonitrile is refluxed for 5 hours, whilst stirring, with the addition of 10.3 g of dry potassium carbonate. The reaction mixture is filtered whilst warm, the filtrate is concentrated by evaporation and the remaining crystals are suction-filtered after trituration with ether. The crude 2,3-dihydro-2,2-dimethyl-6-(1-propen-3-yloxy)-4H-1,3-benzoxazin-4-one obtained in this manner melts at 137°-138°.

reactant | 2,3-dihydro-2,2-dimethyl-6-hydroxy-4H-1,3-benzoxazin-4-one | 9.65 g | CC1(OC2=C(C(N1)=O)C=C(C=C2)O)C | C10H11NO3
reactant | allyl bromide | 9.1 g | C(C=C)Br | C3H5Br
reactant | potassium carbonate | 10.3 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 150 ml | C(C)#N | C2H3N
product | 2,3-dihydro-2,2-dimethyl-6-(1-propen-3-yloxy)-4H-1,3-benzoxazin-4-one | CC1(OC2=C(C(N1)=O)C=C(C=C2)OCC=C)C | C13H15NO3
